US08912224B2
To a solution of 6-bromo-2-o-tolyl-chroman-4-ol (11.9 g, 37.3 mmol) in dichloromethane (130 ml) at 0° C. triethylsilane (29.6 g, 255 mmol, 6.8 eq) and trifluoroacetic acid (75 ml, 27 eq) were added. The solution was stirred at room temperature for 2.5 h. The solvent was removed under reduced pressure and the residue separated between water and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layers washed with water and saturated aqueous solution of sodium hydrogencarbonate, dried with sodium sulfate and filtered, and the solvent removed under reduced pressure. The crude product was purified by column chromatography (silica gel; ethyl acetate/heptane gradient). 6-Bromo-2-o-tolyl-chroman was obtained as a pale yellow oil (7.10 g, 63%).

reactant | 6-bromo-2-o-tolyl-chroman-4-ol | 37.3 mmol, 11.9 g | BrC=1C=C2C(CC(OC2=CC1)C1=C(C=CC=C1)C)O | C16H15BrO2
reactant | triethylsilane | 255 mmol, 29.6 g, 6.8 eq | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 75 ml, 27 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | 6-Bromo-2-o-tolyl-chroman | BrC=1C=C2CCC(OC2=CC1)C1=C(C=CC=C1)C | C16H15BrO
